US08133995B2
Step 6: Preparation of Ethyl 1-amino-5-cyano-4-(3-fluoro-4-nitrophenyl)-1H-pyrrole-3-carboxylate
To a solution of ethyl 5-cyano-4-(3-fluoro-4-nitrophenyl)-1H pyrrole-3-carboxylate (31.9 g, 105.2 mmol) in DMF (1.5 L) was slowly added NaH (34.54 g, 136.7 mmol). After the evolution of gas had ceased (aminooxy)(diphenyl)phosphine oxide (34.4 g, 147.3 mmol) was added in one portion. Upon addition of (aminooxy)(diphenyl)phosphine oxide the reaction mixture solidified. The reaction mixture was heated to 80° C. during which time the solids broke up and mixture stirred freely. The reaction was heated for 3 h, then cooled and the DMF was removed under reduced pressure. The remaining slurry was dissolved in EtOAc (500 mL) and filtered to remove a majority of the phosphinic acid. The filter cake was washed with EtOAc and the organics were concentrated in vacuo. The product was purified by crystallization from hot ACN to provide a tan solid (24.0 g, 75.31 mmol) in 71% yield. 1H-NMR (DMSO-d6) δ 8.21 (app t, J=8.4 Hz, 1H), 7.73 (s, 1H), 7.71 (dd, J=12.4, 2.0 Hz, 1H), 7.48 (m, 1H), 6.72 (s, 2H), 4.11 (q, J=7.2 Hz, 2H), 1.14 (t, J=7.2 Hz, 3H).

reactant | ethyl 5-cyano-4-(3-fluoro-4-nitrophenyl)-1H pyrrole-3-carboxylate | 105.2 mmol, 31.9 g | C(#N)C1=C(C(=CN1)C(=O)OCC)C1=CC(=C(C=C1)[N+](=O)[O-])F | C14H10FN3O4
reactant | NaH | 136.7 mmol, 34.54 g | [H-].[Na+]
reactant | (aminooxy)(diphenyl)phosphine oxide | 147.3 mmol, 34.4 g | NOP(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C12H12NO2P
solvent | DMF | 1.5 L | CN(C)C=O | C3H7NO
product | Ethyl 1-amino-5-cyano-4-(3-fluoro-4-nitrophenyl)-1H-pyrrole-3-carboxylate | 75.31 mmol, 24.0 g, 71% yield | NN1C=C(C(=C1C#N)C1=CC(=C(C=C1)[N+](=O)[O-])F)C(=O)OCC | C14H11FN4O4
